US09422331B2
(S)-N-((2S,3S)-1-Acetyl-5-((3-cyclopropylquinolin-4-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide
To a rt solution of tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((3-cyclopropylquinolin-4-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (65 mg, 108 μmol) in CH2Cl2 (434 μl) was added TFA (108 μl). The reaction was stirred for 2.5 h, then concentrated and purified by reverse phase preparative HPLC to provide, after extraction from sat. aq. NaHCO3 and lyophilzation, (S)-N-((2S,3S)-1-acetyl-5-((3-cyclopropylquinolin-4-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide (27.2 mg, 50%) as a white solid. MS m/z 500 (MH)+.

reactant | tert-butyl(S)-1-((2S,3S)-1-acetyl-5-((3-cyclopropylquinolin-4-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 108 μmol, 65 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC=C2 | C34H41N5O5
reactant | TFA | 108 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 434 μl | C(Cl)Cl | CH2Cl2
product | (S)-N-((2S,3S)-1-Acetyl-5-((3-cyclopropylquinolin-4-yl)methyl)-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC=C2 | C29H33N5O3
